US06762320B2
c) N-[2-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester
In analogy to example 1, the title compound is prepared from 2-fluoro-4-(3-fluoro-benzyloxy)-phenylamine and chlorocarbonyl-acetic acid methyl ester. Yield: 47%. Brownish solid. MS: m/e=336.1 (M++H).

reactant | 2-fluoro-4-(3-fluoro-benzyloxy)-phenylamine | FC1=C(C=CC(=C1)OCC1=CC(=CC=C1)F)N | C13H11F2NO
reactant | chlorocarbonyl-acetic acid methyl ester | COC(CC(=O)Cl)=O | C4H5ClO3
product | N-[2-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | Yield: 47% | COC(CC(=O)NC1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)F)=O | C17H15F2NO4
